US08492384B2
3-(4-phenylimidazol-1-yl)propionic acid ethyl ester
4-Phenylimidazole (1.884 g, 13 mmol) and KF/Al2O3 (0.113 g, 10 mol %) were dissolved in 30 mL of CH3CN, added with ethyl acrylate (1.301 g, 13 mmol) and stirred at room temperature. Initiation and termination of the reaction were confirmed by TLC (hexane:EtOAc=1:1). Upon completion of the reaction, KF/Al2O3 was filtrated under reduced pressure, water was added to the reaction mixture, and the aqueous phase was extracted with methylene chloride. The organic layer was dried with MgSO4, filtrated and then concentrated under reduced pressure to obtain the target compound.

reactant | 4-Phenylimidazole | 13 mmol, 1.884 g | C1(=CC=CC=C1)C=1N=CNC1 | C9H8N2
reactant | ethyl acrylate | 13 mmol, 1.301 g | C(C=C)(=O)OCC | C5H8O2
reactant | hexane | CCCCCC | C6H14
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3CN | 30 mL | CC#N | C2H3N
product | 3-(4-phenylimidazol-1-yl)propionic acid ethyl ester | C(C)OC(CCN1C=NC(=C1)C1=CC=CC=C1)=O | C14H16N2O2
